US07037929B1
25 N-[5-(3-oxo-butyl)-1,3-thiazol-2-yl]-butanamide
To a stirred solution of 200 mg (1 mmol) of cupric acetate in 10 ml of water 141 mg (0.5 mmol) of N-[5-(3-dimethylaminoimino-butyl)-1,3-thiazol-2-yl]-butanamide in 10 ml of tetrahydrofuran were added. After 2 hours the solvent was removed under reduced pressure, a mixture of aqueous ammonium chloride and ammonium hydroxide was added and the product extracted with methylene chloride to give after drying and concentration 114 mg (95% yield) of the title compound.

reactant | water | 0.5 mmol, 10 ml, 141 mg | O | H2O
reactant | N-[5-(3-dimethylaminoimino-butyl)-1,3-thiazol-2-yl]-butanamide | CN(C)N=C(CCC1=CN=C(S1)NC(CCC)=O)C | C13H22N4OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[5-(3-oxo-butyl)-1,3-thiazol-2-yl]-butanamide | 95% yield | O=C(CCC1=CN=C(S1)NC(CCC)=O)C | C11H16N2O2S
